US05597918
To a suspension of 1.4 g of 9-formyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one in methanol was added 1.0 g of sodium borohydride under ice-cooling. After stirring for an hour, the mixture was poured into diluted hydrochloric acid and extracted with chloroform. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a silica gel column using chloroform as an eluent. The solid was recrystallized from a mixed solvent of ethanol and isopropyl ether to give 1.0 g of 9-hydroxymethyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one as a white powder, melting at 158°-159° C.

reactant | 9-formyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 1.4 g | C(=O)C1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)C)S1 | C19H16N2O2S
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 9-hydroxymethyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 1.0 g | OCC1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)C)S1 | C19H18N2O2S
